### PR TITLE
[Merged by Bors] - feat: introduce the Proximity Function of Value Distribution Theory

### PR DESCRIPTION
**Pull request by kebekus**
Define the "proximity function" attached to a meromorphic function defined on the complex plane.  Also known as the "Nevanlinna Proximity Function", this is one of the three main functions used in Value Distribution Theory.

This material is used in [Project VD](https://github.com/kebekus/ProjectVD), which aims to formalize Value Distribution Theory for meromorphic functions on the complex plane.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Complex/ValueDistribution/ProximityFunction.lean [hunk 1]
```diff
@@ -0,0 +1,96 @@
...
+used in Value Distribution Theory.
+
+The proximity function is a logarithmically weighted measure quantifying how well a meromorphic
+function `f` approximates the constant function `a` on the circle of radius `R` in the complex
+plane.  The definition ensures that large values correspond to good approximation.
+
+See Section~VI.2 of [Lang: Introduction to Complex Hyperbolic
+Spaces](https://link.springer.com/book/10.1007/978-1-4757-1945-1) or Section~1.1 of
+[Noguchi-Winkelmann: Nevanlinna Theory in Several Complex Variables and Diophantine
+Approximation](https://link.springer.com/book/10.1007/978-4-431-54571-2) for a detailed discussion.
```
Comment (jcommelin) [inline Mathlib/Analysis/Complex/ValueDistribution/ProximityFunction.lean:24]: Could you please add these to `docs/references.bib`?

Comment (kebekus) [reply Mathlib/Analysis/Complex/ValueDistribution/ProximityFunction.lean]: Done.

File: Mathlib/Analysis/Complex/ValueDistribution/ProximityFunction.lean [hunk 2]
```diff
@@ -0,0 +1,95 @@
...
+-/
+lemma proximity_zero_of_complexValued {f : ℂ → ℂ} :
+    proximity f 0 = circleAverage (log⁺ ‖f⁻¹ ·‖) 0 := by
+  simp [proximity]
+
+/--
+Expand the definition of `proximity f a` in case where `a₀ = ⊤`.
+-/
+lemma proximity_top :
+    proximity f ⊤ = circleAverage (log⁺ ‖f ·‖) 0 := by
```
Comment (jcommelin) [inline Mathlib/Analysis/Complex/ValueDistribution/ProximityFunction.lean:73]:
```suggestion
lemma proximity_top : proximity f ⊤ = circleAverage (log⁺ ‖f ·‖) 0 := by
```

**Review by jcommelin — COMMENTED** [review]
Thanks!

bors d+

**Comment by kebekus** [comment]
@jcommelin Thanks!

bors r+
